US04999130
In a 200 ml two-necked round-bottom flask with ground fitting, 16.00 g (94.7 mM) of ethyl 2-cyano-2-methylpentanoate and 90 ml of ethanol were placed. To the mixture under stirring with a magnetic stirrer, a solution of 10.8 g (270 mM) of sodium hydroxide in 35 ml of distilled water was added dropwise. The mixture was stirred for 5 hours at room temperature, followed by removal of the solvent and addition of 3N-HCl until the solution reacted pH 1. The reaction mixture was transferred to a separating funnel, followed by three times of extraction with 50 ml of diethyl ether and washing with 50 ml of distilled water. The organic layer was dried on anhydrous sodium sulfate, followed by distilling-off of the solvent and reduced-pressure distillation to obtain 12.61 g (89.4 mM) of 2-cyano-2-methylpentanoic acid. Yield:94.4%, b.p.:120° C./2 mmHg.

reactant | ethyl 2-cyano-2-methylpentanoate | 94.7 mM, 16.00 g | C(#N)C(C(=O)OCC)(CCC)C | C9H15NO2
reactant | ethanol | 90 ml | C(C)O | C2H6O
reactant | sodium hydroxide | 270 mM, 10.8 g | [OH-].[Na+]
solvent | water | 35 ml | O | H2O
product | 2-cyano-2-methylpentanoic acid | 89.4 mM, 12.61 g, Yield:94.4% | C(#N)C(C(=O)O)(CCC)C | C7H11NO2
